US07365085B2
b) 3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-2-methyl-phenylamine
(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-[3-(2-methyl-3-nitro-phenoxy)-propyl]-amine (300 mg, 0.51 mmol) was dissolved in methanol (100 ml), and hydrogenated with 10% Pd/C (40 mg) at 60 psi at room temperature. After 2.5 h, the reaction mixture was filtered and concentrated in vacuo to give an amber oil, 0.25 g (89%). Flash silica gel chromatography (Supelco Discovery DSC-Si) (CHCl3) afforded the title compound as a pure oil (75%). MS (ESI) 552.5 (M−H+).

reactant | (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-[3-(2-methyl-3-nitro-phenoxy)-propyl]-amine | 0.51 mmol, 300 mg | ClC1=C(CN(CCCOC2=C(C(=CC=C2)[N+](=O)[O-])C)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C32H30ClF3N2O3
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-2-methyl-phenylamine | 75% | ClC1=C(CN(CCCOC=2C(=C(C=CC2)N)C)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C32H32ClF3N2O
